US04737494
To 30 ml of tetrahydrofuran, 1.6 g of proline amide was dissolved, and 2.0 g of 2-methylthio-1,3-dithiolium iodide was gradually added under stirring at room temperature. The mixture was stirred at room temperature for 1 hour, and the precipitated crystals were collected by filtration and recrystallized from acetone-ethyl ether, whereby 1.3 g (yield: 53%) of 1-(1,3-dithiol-2-ylidene)-2-carbamoylpyrrolidinium iodide (Compound No. 44) was obtained as crystals having a melting point of from 250° to 251° C.

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | proline amide | 1.6 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | 2-methylthio-1,3-dithiolium iodide | 2.0 g | [I-].CSC1=[S+]C=CS1
solvent | acetone ethyl ether | CC(=O)C.C(C)OCC
product | 1-(1,3-dithiol-2-ylidene)-2-carbamoylpyrrolidinium iodide | 1.3 g, yield: 53% | [I-].S1C(SC=C1)=[N+]1C(CCC1)C(N)=O | InChI=1S/C8H10N2OS2.HI/c9-7(11)6-2-1-3-10(6)8-12-4-5-13-8;/h4-6H,1-3H2,(H-,9,11);1H
